US20010056188A1
Synthesis of 3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)- 3-(1,1-dimethylpropylamino)-2-propenenitrile
3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile (0.300 g, 0.6 mmol) was stirred in 1,1-dimethylpropylamine (1 ml) for 40 h at 60° C. and for 43 h at 110° C. under nitrogen. The reaction mixture was concentrated and the residue dissolved in DCM, washed twice with 1N aqueous HCl and once with water. The organic phase was dried (sodium sulfate) and concentrated. The residue was purified by flash chromatography using from ethyl acetate/heptane 1:2 as eluent followed recrystallisation from ethyl acetate/heptane 1:2 to give 25 mg (8%) of the title compound. Mp 205-207° C. 1H NMR (200 MHz, CDCl3): δ=0.98 (t, 3H), 1.54 (s, 6H), 1.68 (q, 2H), 7.10 (s, 2H), 7.53 (d, 2H), 7.60 (s, 1H), 7.81 (d, 2H); EI SP/MS: 539 (M+).

reactant | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chloro-phenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 0.6 mmol, 0.300 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C18H11ClF6N2O2S2
reactant | 1,1-dimethylpropylamine | 1 ml | CC(CC)(C)N | C5H13N
product | 3-[3,5-Bis(trifluoromethyl)phenylamino]-2-(4-chlorophenylsulfonyl)- 3-(1,1-dimethylpropylamino)-2-propenenitrile | 25 mg, 8% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)NC(CC)(C)C)(F)F | C22H20ClF6N3O2S
